US07569518B2
0.35 g of 5-(4-chlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one, 0.96 g of sodium methoxide (28% methanol solution) and 6 ml of methanol were mixed and stirred for 14 hours under reflux with heating. Next, to the reaction mixture was added 0.96 g of sodium methoxide (28% methanol solution), and stirred for 9 hours under reflux with heating. The reaction mixture was cooled to room temperature. Water was added to the reaction mixture, and extracted with ethyl acetate. The organic layer was washed with water, and dried over anhydrous magnesium sulfate, then; concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (elution solvent: hexane+tert-butyl methyl ether), to obtain 0.25 g of 5-(4-chlorophenyl)-4-(2,6-difluoro-4-methoxyphenyl)-6-methyl-2H-pyridazin-3-one.

reactant | 5-(4-chlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one | 0.35 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C1=C(C=C(C=C1F)F)F | C17H10ClF3N2O
reactant | sodium methoxide | 0.96 g | C[O-].[Na+]
reactant | methanol | 6 ml | CO | CH4O
reactant | sodium methoxide | 0.96 g | C[O-].[Na+]
solvent | Water | O | H2O
product | 5-(4-chlorophenyl)-4-(2,6-difluoro-4-methoxyphenyl)-6-methyl-2H-pyridazin-3-one | 0.25 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C1=C(C=C(C=C1F)OC)F | C18H13ClF2N2O2
